US09102673B2
Intermediate B3: (5-Phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)methanol
To a solution of methyl 5-phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-3-carboxylate (380 mg, 1.143 mmole) in THF (5 mL) was added 2M LiBH4 in THF (0.9 mL, 1.800 mmole) at RT. After 30 min the mixture was heated to reflux. After 45 min the mixture was cooled to RT and quenched by slow addition of 1M NaOH. The mixture was diluted with H2O and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered through a pad of Celite washing with CH2Cl2, and concentrated to give the title compound (327 mg, 94%) as a clear oil. 1H NMR (399 MHz, CDCl3): δ 7.60 (dd, J=7.4, 1.5 Hz, 2 H); 7.48-7.40 (m, 3 H); 6.40 (s, 1 H); 5.38 (s, 2 H); 4.74 (d, J=5.8 Hz, 2 H); 3.76-3.67 (m, 2 H); 2.03-1.96 (m, 1 H); 0.98-0.89 (m, 2 H); 0.01 (s, 9 H).

reactant | methyl 5-phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-3-carboxylate | 1.143 mmole, 380 mg | C1(=CC=CC=C1)C1=CC(=NN1COCC[Si](C)(C)C)C(=O)OC | C17H24N2O3Si
reactant | LiBH4 | 2M | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.800 mmole, 0.9 mL | C1CCOC1 | C4H8O
product | (5-Phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)methanol | 327 mg, 94% | C1(=CC=CC=C1)C1=CC(=NN1COCC[Si](C)(C)C)CO | C16H24N2O2Si
